US03933862
The procedure of Example 1 was repeated except that there was employed 3.0 parts of 4,4'-diphenyletherdithiol, 4.68 parts of 3-chlorophthalic anhydride, 2.85 parts of triethylamine and 38 parts of anhydrous DMF. The mixture was stirred at 50°C. for 3 hours to give a product which after acetic acid/acetic anhydride treatment consisted of a 93% yield of product. Recrystallization of this material from toluene/acetic anhydride gave a product in 87% yield, mp 224°-228°C. Based on the method of preparation the product was a thioetherdianhydride of the formula ##SPC14##

reactant | 3-chlorophthalic anhydride | ClC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3ClO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | acetic acid acetic anhydride | C(C)(=O)O.C(C)(=O)OC(C)=O | InChI=1S/C4H6O3.C2H4O2/c1-3(5)7-4(2)6;1-2(3)4/h1-2H3;1H3,(H,3,4)
